US04079082
4,4'-Dinitro-Quaterphenyl
Quaterphenyl (2.00g) was stirred in a refluxing glacial acetic acid (225ml), nitrobenzene (225ml) mixture until dissolved. Fuming nitric acid (d 1.5, 15ml) in acetic acid (60ml) was added over ten minutes. The mixture was further refluxed for fifty minutes. Upon cooling the flask in ice, yellow crystals appeared. They were recrystallized from chlorobenzene (0.85g, 33%). Upon heating, the material became mobile at 307° C with previous softening but did not clear even at 340° C when slow charring ocurred.

reactant | Quaterphenyl | 2.00g | C1(=CC=CC=C1)C=1C(=CC=CC1)C=1C(=CC=CC1)C1=CC=CC=C1 | C24H18
reactant | nitrobenzene | 225ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | nitric acid | 15ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 60ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 225ml | C(C)(=O)O | C2H4O2
product | 4,4'-Dinitro-Quaterphenyl | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=CC(=CC1)[N+](=O)[O-])C=1C(=CC=CC1)C1=CC=CC=C1 | C24H16N2O4
